US07056916B2
(d) 4-(4-{2-[2-hydroxy-2-(6-hydroxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-ethylamino]-2-methylpropyl}phenoxy)butyric acid
0.70 g (1.28 mmol) of 4-(4-{2-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxyethylamino]-2-methylpropyl}phenoxy)butyric acid is dissolved in 25 mL methanol and 2 mL acetic acid and hydrogenated in the presence of 150 mg palladium on charcoal (10%) at ambient temperature and normal pressure. The catalyst is filtered off and the filtrate is freed from solvent. The product is obtained by crystallization from a methanol-acetone mixture. Yield: 0.40 g (68%); melting point: 201° C.–204° C.; mass spectroscopy: [M+H]+=459.

reactant | 4-(4-{2-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxyethylamino]-2-methylpropyl}phenoxy)butyric acid | 1.28 mmol, 0.70 g | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC=C(OCCCC(=O)O)C=C1)(C)C)O | C31H36N2O7
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
product | 4-(4-{2-[2-hydroxy-2-(6-hydroxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-ethylamino]-2-methylpropyl}phenoxy)butyric acid | OC(CNC(CC1=CC=C(OCCCC(=O)O)C=C1)(C)C)C1=CC(=CC=2NC(COC21)=O)O | C24H30N2O7
